### PR TITLE
feat(Algebra/WLocalization): fill `diag.map_id` and `diag.map_comp` sorries

### PR DESCRIPTION
**Pull request by chrisflav**
Fills the two functoriality `sorry`-placeholders for `WLocalization.diag`, the
diagram `Finset A ⥤ CommAlgCat A` whose colimit is the w-localization. After this
PR, the existing `\leanok` on `def:w-localization` (which already references
`WLocalization.commAlgCat`) accurately reflects the underlying Lean state.

The proofs route through three small private helpers:

* `Generalization.map_comp_apply`: two `Generalization.map`s compose to a single
  `Generalization.map` whose subset proof is the transitivity of the inputs.
* `map_transport_eq`: between equal indices (matching `left` and `right`),
  `Generalization.map` acts as the identity on the corresponding `ProdStrata`
  component.
* `map_transport_comp_eq`: two `Generalization.map`s landing in the same target
  from equal indices give equal results.

For `map_id`, the restricted index `i.restrict (𝟙 E)` equals `i` (using
`i.left, i.right ⊆ E`); for `map_comp`, the doubly-restricted index
`(i.restrict g).restrict f` equals the directly-restricted `i.restrict (f ≫ g)`
(using `E ⊆ F` and associativity of finite intersection).

### CODE REVIEW

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 1]
```diff
@@ -423,13 +437,61 @@ lemma ProdStrata.mapsTo_map_specComap {E F : Finset A} (h : E ⊆ F) :
...
+  obtain rfl : j = i := by
+    cases i; cases j
+    simpa only [Stratification.Index.mk.injEq] using ⟨hl, hr⟩
+  simp
+
+/-- Two `Generalization.map` calls into the same target, starting from `ProdStrata`-components
+of indices that share `left` and `right`, give equal results. -/
+private lemma ProdStrata.map_transport_comp_eq {E : Finset A} {f' : A} {I' : Ideal A}
+    {j₁ j₂ : Stratification.Index E}
+    (hl : j₁.left = j₂.left) (hr : j₁.right = j₂.right)
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: Instead of these lemmas, add an `ext` lemma for `Stratification.Index` and use that in the proof.

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 2]
```diff
@@ -423,13 +438,57 @@ lemma ProdStrata.mapsTo_map_specComap {E F : Finset A} (h : E ⊆ F) :
...
   exact (map_ideal_le h).trans hp
 
+/-- If two indices share `left` and `right`, then transporting a `ProdStrata`-component along
+`Generalization.map` recovers the other component. -/
+private lemma ProdStrata.map_transport_eq {E : Finset A}
+    {i j : Stratification.Index E}
+    (hl : j.left = i.left) (hr : j.right = i.right)
+    (h : Generalization.locClosedSubset i.function i.ideal ⊆
+         Generalization.locClosedSubset j.function j.ideal)
+    (x : ProdStrata E) :
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: Remove the two `private` lemmas and use the ext lemma directly in the proof.

File: Proetale/Algebra/WLocalization/Basic.lean [hunk 3]
```diff
@@ -428,8 +443,40 @@ variable (A) in
...
+      ProdStrata.map_apply]
+    suffices h : ∀ {j : Stratification.Index E} (_ : j = i)
+        (h : Generalization.locClosedSubset i.function i.ideal ⊆
+             Generalization.locClosedSubset j.function j.ideal),
+        Generalization.map h (x j) = x i by
+      exact h (Stratification.Index.ext
+        (Finset.inter_eq_right.mpr <| Finset.coe_subset.mp <|
+          Set.subset_union_left.trans i.union_eq.le)
+        (Finset.inter_eq_right.mpr <| Finset.coe_subset.mp <|
+          Set.subset_union_right.trans i.union_eq.le)) _
```
Comment (chrisflav) [inline Proetale/Algebra/WLocalization/Basic.lean]: Instead of this `suffices`, just state the required index equality as a `have`, prove it with the `ext` lemma and then rewrite with it.
